US07713996B2
1-(5-Chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carboxylic acid [4-(1H-tetrazol-5-yl)-phenyl]-amide, MS (ISP), m/e=509.1 (M−H), was prepared in analogy to example 13, steps 1 to 4. Step 1 was performed using 4-amino-benzonitrile and yielded 1H-indole-6-carboxylic acid (4-cyano-phenyl)-amide which was reduced to 2,3-dihydro-1H-indole-6-carboxylic acid (4-cyano-phenyl)-amide in step 2. This was coupled with 5-chloro-2-methoxy benzenesulfonyl chloride in step 3, yielding 1-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carboxylic acid (4-cyano-phenyl)-amide, which was converted to 1-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carboxylic acid [4-(1H-tetrazol-5-yl)-phenyl]-amide by reaction with ammonium azide in step 4.

reactant | 1-(5-Chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carboxylic acid [4-(1H-tetrazol-5-yl)-phenyl]-amide | N1N=NN=C1C1=CC=C(C=C1)NC(=O)C1=CC=C2CCN(C2=C1)S(=O)(=O)C1=C(C=CC(=C1)Cl)OC | C23H19ClN6O4S
reactant | 4-amino-benzonitrile | NC1=CC=C(C#N)C=C1 | C7H6N2
product | 1H-indole-6-carboxylic acid (4-cyano-phenyl)-amide | C(#N)C1=CC=C(C=C1)NC(=O)C1=CC=C2C=CNC2=C1 | C16H11N3O
